US06878721B1
(R)-1-(4-Benzyloxy-3-nitro-phenyl)-2-[benzyl-(2,5,6-trimethyl-indan-2-yl)-amino]-ethanol
A mixture of 2-(4-methyl-3-nitro-phenyl)-oxirane and benzyl-(2,5,6-trimethyl-indan-2-yl)-amine is heated at 110° C. for 48 hours. The material is used without further purification. ES+ MS m/e 538 (MH+).

reactant | 2-(4-methyl-3-nitro-phenyl)-oxirane | CC1=C(C=C(C=C1)C1OC1)[N+](=O)[O-] | C9H9NO3
reactant | benzyl-(2,5,6-trimethyl-indan-2-yl)-amine | C(C1=CC=CC=C1)NC1(CC2=CC(=C(C=C2C1)C)C)C | C19H23N
product | (R)-1-(4-Benzyloxy-3-nitro-phenyl)-2-[benzyl-(2,5,6-trimethyl-indan-2-yl)-amino]-ethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN(C1(CC2=CC(=C(C=C2C1)C)C)C)CC1=CC=CC=C1)O)[N+](=O)[O-] | C34H36N2O4
